US05231103
4-(Quinolin-2-yl-methoxy)phenyl cyclohexyl ketoxime
A solution of 15.9 g (46 mmol) of 4-(quinolin-2yl-methoxy)phenyl cyclohexyl ketone in 100 ml of ethanol and 33 ml of pyridine is stirred at room temperature for 18 h after addition of 4.77 g (68.6 mmol) of hydroxylamine hydrochloride. For working up, the mixture is concentrated in vacuo and the residue is taken up in dichloromethane. The organic phase is washed with water, dried over sodium sulphate and concentrated to dryness in vacuo.

reactant | 4-(quinolin-2yl-methoxy)phenyl cyclohexyl ketone | 46 mmol, 15.9 g | C1(CCCCC1)C(=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C23H23NO2
reactant | hydroxylamine hydrochloride | 68.6 mmol, 4.77 g | Cl.NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | pyridine | 33 ml | N1=CC=CC=C1 | C5H5N
product | 4-(Quinolin-2-yl-methoxy)phenyl cyclohexyl ketoxime | C1(CCCCC1)C(=NO)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C23H24N2O2
